US07371743B2
(c) 4-(4,4-dimethyl-2-oxo-imidazolidin-1-yl)-3-methyl-benzoic acid
2.70 g (10.3 mmol) methyl 4-(4,4-dimethyl-2-oxo-imidazolidin-1-yl)-3-methyl-benzoate are suspended in 75 ml of methanol and combined with a solution of 1.68 g (30.0 mmol) potassium hydroxide in 10 ml of water. It is stirred for 3 hours at ambient temperature and then evaporated down i. vac. The aqueous residue is diluted with water, acidified with 1-molar hydrochloric acid and the precipitate obtained is suction filtered, washed with water and dried.

reactant | methyl 4-(4,4-dimethyl-2-oxo-imidazolidin-1-yl)-3-methyl-benzoate | 10.3 mmol, 2.70 g | CC1(NC(N(C1)C1=C(C=C(C(=O)OC)C=C1)C)=O)C | C14H18N2O3
reactant | potassium hydroxide | 30.0 mmol, 1.68 g | [OH-].[K+]
solvent | methanol | 75 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 4-(4,4-dimethyl-2-oxo-imidazolidin-1-yl)-3-methyl-benzoic acid | CC1(NC(N(C1)C1=C(C=C(C(=O)O)C=C1)C)=O)C | C13H16N2O3
